US06479492B1
Dihexylamine (6.3 mL, 27 mmol) was added to a mixture of cyanuric chloride (5.0 g, 27 mmol) and sodium carbonate (2.9 g, 27 mmol) in acetonitrile (50 mL). The reaction mixture was heated to reflux for 16 h and then allowed to cool to ambient temperature. The mixture was diluted with ethyl acetate and water. The phases were separated and the organic phase was washed with brine, dried over magnesium sulfate, and concentrated under reduced pressure. The crude material was purified by flash column chromatography through silica gel (elution with 3:1 hexanes:chloroform) to afford 2,4-dichloro-6-dihexylamino-1,3,5-triazine.

reactant | Dihexylamine | 27 mmol, 6.3 mL | C(CCCCC)NCCCCCC | C12H27N
reactant | cyanuric chloride | 27 mmol, 5.0 g | N1=C(Cl)N=C(Cl)N=C1Cl | C3Cl3N3
reactant | sodium carbonate | 27 mmol, 2.9 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 2,4-dichloro-6-dihexylamino-1,3,5-triazine | ClC1=NC(=NC(=N1)Cl)N(CCCCCC)CCCCCC | C15H26Cl2N4
